US05246956
(+-)-(Z)-6-[[2-phenyl-3-(1H-imidazol-1-yl)-2,3-dihydro-4H-benzopyranylidene]aminoxy]hexanoic acid (Compound 5)
(+-)-(Z)-Ethyl-6-[[2-phenyl-3-(1H-imidazol-1-yl)-2,3-dihydro-4H-benzopyranylidene]aminoxy]hexanoate (300 mg; 0.67 mmoles) is dissolved in methanol-water (5:2; 7 ml), and to this solution sodium methylate (90 mg; 1.61 mmoles) is added portion-wise at 0° C. The resulting solution is stirred at r.t. for 28 hrs., then diluted with water, cooled at 0° C. and neutralized with acetic acid. The so formed precipitate is collected and recrystallized from ethyl acetate to give a white solid (190 mg), melting at 176°-178° C.

reactant | (+-)-(Z)-Ethyl-6-[[2-phenyl-3-(1H-imidazol-1-yl)-2,3-dihydro-4H-benzopyranylidene]aminoxy]hexanoate | 0.67 mmoles, 300 mg | C(C)OC(CCCCCO\N=C\1/C(C(OC2=C1C=CC=C2)C2=CC=CC=C2)N2C=NC=C2)=O | C26H29N3O4
reactant | sodium methylate | 1.61 mmoles, 90 mg | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol water | 7 ml | CO.O
solvent | water | O | H2O
product | (+-)-(Z)-6-[[2-phenyl-3-(1H-imidazol-1-yl)-2,3-dihydro-4H-benzopyranylidene]aminoxy]hexanoic acid | 190 mg | C1(=CC=CC=C1)C1OC2=C(/C(/C1N1C=NC=C1)=N/OCCCCCC(=O)O)C=CC=C2 | C24H25N3O4
